US06969724B2
(±)-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one-7-carboxylic acid
A suspension of 0.7 g (3 mmol) of ethyl (±)-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one-7-carboxylate (prepared as described in Bowman, Tetrahedron, 48, 4027, 1992) in 2 mL of 2N NaOH (4 mmol) was refluxed for 2 h, then cooled and extracted with Et2O. The aqueous layer was brought to acidic pH with 10% HCl, the precipitate formed was redissolved in Et2O and the organic phase was washed with water and dried. The solvent was removed in vacuo and the resulting residue was purified by flash chromatography, eluting with a mixture CH2Cl2/MeOH 9:1 respectively, yielding 0.41 g of the title compound. m.p.=134-135° C.

reactant | ethyl (±)-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one-7-carboxylate | 3 mmol, 0.7 g | C1=CC=CC2=C1CCC(CC2=O)C(=O)OCC | C14H16O3
reactant | NaOH | 4 mmol, 2N, 2 mL | [OH-].[Na+]
solvent | Et2O | CCOCC | C4H10O
product | (±)-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one-7-carboxylic acid | 0.41 g | C1=CC=CC2=C1CCC(CC2=O)C(=O)O | C12H12O3
